US05599926
Di-tert-butyl dicarbonate (13.0 g, 59.6 mmol) was added to a solution of L-tyrosine methyl ester hydrochloride (10.0 g, 43.2 mmol) and i-Pr2NEt (6.6 mL, 38.0 mmol) in DMF (100 mL). The reaction mixture was poured into 1M aq KHSO4 after 8 h and extracted with ethyl acetate (3×). The combined extracts were washed with aq NaHCO3 and brine. Drying and evaporation afforded a yellow oil which was dissolved in DMF (100 mL). Potassium carbonate (12.0 g, 86 mmol), allyl bromide (4.5 mL, 51.8 mmol), and n-Bu4 -NI (1.5 g, 4.3 mmol) were added. The reaction mixture was stirred for 16 h, poured into 1M aq KHSO4, and extracted with ethyl acetate (3×). The combined organic layers were washed with aq NaHCO3 and brine. Drying and solvent removal afforded N-Boc-O-allyl-L-tyrosine methyl ester as a yellow oil.

reactant | Di-tert-butyl dicarbonate | 59.6 mmol, 13.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | L-tyrosine methyl ester hydrochloride | 43.2 mmol, 10.0 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | i-Pr2NEt | 38.0 mmol, 6.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
reactant | Potassium carbonate | 86 mmol, 12.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 51.8 mmol, 4.5 mL | C(C=C)Br | C3H5Br
reactant | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-Boc-O-allyl-L-tyrosine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCC=C)=O | C18H25NO5
